US03983107
When 1,1-diphenylethene reacts with sulfuryl chloride in N,N-dimethylformaide, followed by treatment with ammonia, according to the procedure of Preparation A, there is obtained 2,2-diphenylethenesulfonamide, m.p. 134°-135°C.

reactant | 1,1-diphenylethene | C1(=CC=CC=C1)C(=C)C1=CC=CC=C1 | C14H12
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ammonia | N | H3N
product | 2,2-diphenylethenesulfonamide | C1(=CC=CC=C1)C(=CS(=O)(=O)N)C1=CC=CC=C1 | C14H13NO2S
